US07432278B2
6-Amino-5-methylnicotinonitrile.
A mixture of 2-Amino-5-bromo-3-methylpyridine (15.49 g, 82.8 mmol) and Cu(I)CN (9.27 g, 103.5 mmol) in DMF (160 mL) was heated at 150° C. for 24 h. The reaction mixture was poured onto water and the solid which formed was extracted by using ethylacetate (600 mL, 3 times) from aq. NH4OH. The solvent was evaporated and the precipitate purified by chromatography (SiO2, hexanes/EtOAc 4:6). Yield 70%, mp 198-200° C., (Lit. mp 203-205° C.; see Dunn A. D. and Norrie R. J. Prakt. Chem./Chem.-Ztg, 338 (7), 663-666 (1996). Lit. melting point not reported via palladium-catalyzed cyanation; see Maligres, P. et al., Tetrahedron Lett., 40, 8193-8195 (1999).

reactant | 2-Amino-5-bromo-3-methylpyridine | 82.8 mmol, 15.49 g | NC1=NC=C(C=C1C)Br | C6H7BrN2
reactant | DMF | 160 mL | CN(C)C=O | C3H7NO
product | 6-Amino-5-methylnicotinonitrile | Yield 70% | NC1=NC=C(C#N)C=C1C | C7H7N3
